US06861419B2
4-Hydroxy-3-[(E)-3-(2-methoxy-4-methylsulfanyl-phenyl)-acryloyl]-6-methyl-pyran-2-one (41.8 mg, 0.126 mmol), prepared as in Reference 5, Step 5.1, was dissolved in absolute ethanol (5 mL) and then 2-aminoethanethiol (9.8 mg, 0.126 mmol) was added to the solution. The mixture was stirred at 80° C. The progress of the reaction was followed by analytical HPLC and when complete (approximately 12 hours) the solvent was removed in vacuo. Product was purified by silica flash column chromatography to provide 4-hydroxy-3-[7-(2-methoxy-4-methylsulfanyl-phenyl)-2,3,6,7-tetrahydro-[1,4]thiazepin-5-yl]-6-methyl-pyran-2-one (20.5 mg) as a pale, yellow solid. LCMS: MH+ 392.6.

reactant | 4-Hydroxy-3-[(E)-3-(2-methoxy-4-methylsulfanyl-phenyl)-acryloyl]-6-methyl-pyran-2-one | 0.126 mmol, 41.8 mg | OC1=C(C(OC(=C1)C)=O)C(\C=C\C1=C(C=C(C=C1)SC)OC)=O | C17H16O5S
reactant | 2-aminoethanethiol | 0.126 mmol, 9.8 mg | NCCS | C2H7NS
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-hydroxy-3-[7-(2-methoxy-4-methylsulfanyl-phenyl)-2,3,6,7-tetrahydro-[1,4]thiazepin-5-yl]-6-methyl-pyran-2-one | 20.5 mg | OC1=C(C(OC(=C1)C)=O)C1=NCCSC(C1)C1=C(C=C(C=C1)SC)OC | C19H21NO4S2
